US07320973B2
3-Pyrrolidinophenethyl Alcohol
A solution of 2-(3-bromophenethoxy)tetrahydro-2H-pyran (6.27 g, 21.9 mmol) in toluene (15 ml) and pyrrolidine (2.2 ml, 26.4 mmol) were added to a mixture of dry palladium acetate (58 mg, 0.26 mmol), 2-(di-t-butylphosphino)biphenyl (136 mg, 0.46 mmol) and sodium t-butoxide (3.23 g, 33.6 mmol), and they were stirred at 70° C. for 12 hours. Water was added to the reaction mixture. After the extraction with ethyl acetate, the product was extracted from the organic layer with 1 M hydrochloric acid. The aqueous layer was neutralized with an aqueous sodium hydroxide solution and the product was extracted with ethyl acetate. The organic layer was dried to quantitatively obtain 3-pyrrolidinophenethyl alcohol in the form of a light yellow solid.

reactant | 2-(3-bromophenethoxy)tetrahydro-2H-pyran | 21.9 mmol, 6.27 g | BrC=1C=C(CCOC2OCCCC2)C=CC1 | C13H17BrO2
reactant | pyrrolidine | 26.4 mmol, 2.2 ml | N1CCCC1 | C4H9N
reactant | 2-(di-t-butylphosphino)biphenyl | 0.46 mmol, 136 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium t-butoxide | 33.6 mmol, 3.23 g | CC(C)([O-])C.[Na+]
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.26 mmol, 58 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Water | O | H2O
product | 3-Pyrrolidinophenethyl Alcohol | N1(CCCC1)C=1C=C(CCO)C=CC1 | C12H17NO
